US08455657B2
3.0 g of 2-methyl-3-methylsulfinyl-4-trifluoromethylbenzoic acid and 1.25 g of 3-hydroxy-2-methylpyrazole are suspended in 20 ml of ethyl acetate and 4.8 g of pyridine under an inert atmosphere and cooled to −25° C. with stirring. 1.51 g of thionyl chloride are then slowly added dropwise such that the temperature always remains below −20° C. Following the complete addition of the thionyl chloride, the mixture is stirred for a further 20 minutes. 40 μl of cold water, 10 ml of ethyl acetate and a further 10 ml of water are added, and the mixture is heated to 0° C. After separating the organic phase from the aqueous phase, the aqueous phase is extracted twice with 5 ml of ethyl acetate in each case. The combined organic phases are dried, giving 3.69 g of (5-hydroxy-1-methyl-1H-pyrazol-4-yl)[2-methyl-3-(methylsulfinyl)-4-(trifluoromethyl)phenyl]methanone (90.7% yield).

reactant | 2-methyl-3-methylsulfinyl-4-trifluoromethylbenzoic acid | 3.0 g | CC1=C(C(=O)O)C=CC(=C1S(=O)C)C(F)(F)F | C10H9F3O3S
reactant | 3-hydroxy-2-methylpyrazole | 1.25 g | OC=1N(N=CC1)C | C4H6N2O
reactant | pyridine | 4.8 g | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 1.51 g | S(=O)(Cl)Cl | Cl2OS
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 10 ml | O | H2O
solvent | water | 40 μl | O | H2O
product | (5-hydroxy-1-methyl-1H-pyrazol-4-yl)[2-methyl-3-(methylsulfinyl)-4-(trifluoromethyl)phenyl]methanone | 3.69 g, 90.7% yield | OC1=C(C=NN1C)C(=O)C1=C(C(=C(C=C1)C(F)(F)F)S(=O)C)C | C14H13F3N2O3S
